US03987090
2-hydroxypropyl methacrylate was prepared in the same apparatus and in the same manner as described in Example 1 by reaction of a mixture of 1000 g/hr methacrylic acid, 887 g/hr propylene oxide, 37 g/hr N,N-dimethylaminoethanol, 5 g/hr nitromethane and 1 g/hr hydroquinone at a temperature of 100° C.

reactant | methacrylic acid | C(C(=C)C)(=O)O | C4H6O2
reactant | propylene oxide | C1C(C)O1 | C3H6O
reactant | N,N-dimethylaminoethanol | CN(C)CCO | C4H11NO
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-hydroxypropyl methacrylate | C(C(=C)C)(=O)OCC(C)O | C7H12O3
